US05364871
A mixture of 2-bromo-1-hydroxy-3-oxo-1-butene (9.61 g) and N-[(thiocarbamoyl)methyl]acetamide (7.70 g) in acetone (100 ml) was refluxed for one hour with stirring. The resulting precipitate was collected by filtration and chromatographed on silica gel eluting with a mixture of chloroform and methanol (20:1, V/V) to give 5-acetyl-2-(acetylaminomethyl)thiazole (3.48 g).

reactant | 2-bromo-1-hydroxy-3-oxo-1-butene | 9.61 g | BrC(=CO)C(C)=O | C4H5BrO2
reactant | N-[(thiocarbamoyl)methyl]acetamide | 7.70 g | C(N)(=S)CNC(C)=O | C4H8N2OS
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 5-acetyl-2-(acetylaminomethyl)thiazole | 3.48 g | C(C)(=O)C1=CN=C(S1)CNC(C)=O | C8H10N2O2S
